US05736568
Borane/THF (165 ml of a 1M solution) was added with stirring to a solution of 2-[3-(N-benzyl-N-methylamino)propoxy]-6-chlorobenzonitrile (13.01 g) in dry THF (100 ml) under nitrogen at ambient temperature. The mixture was boiled under reflux for 5 hours and then evaporated to dryness. The residue was heated on a steam bath under nitrogen for 2 hours, then cooled to ambient temperature. 1M Hydrochloric acid (100 ml) was added and the mixture was heated on a steam bath for 2 hours. The mixture was cooled in ice and basified with concentrated sodium hydroxide solution and then extracted with dichloromethane to give an oil. The oil was dissolved in ether and treated with ethereal hydrogen chloride to give a solid which was collected by filtration and recrystallised from propan-2-ol/IMS (2:1) to give 2-[3-(N-benzyl-N-methylamino)propoxy]-6-chlorobenzylamine dihydrochloride, m.p. 226°-228° C.

reactant | Borane THF | B.C1CCOC1
reactant | 2-[3-(N-benzyl-N-methylamino)propoxy]-6-chlorobenzonitrile | 13.01 g | C(C1=CC=CC=C1)N(C)CCCOC1=C(C#N)C(=CC=C1)Cl | C18H19ClN2O
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-[3-(N-benzyl-N-methylamino)propoxy]-6-chlorobenzylamine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N(C)CCCOC1=C(CN)C(=CC=C1)Cl | InChI=1S/C18H23ClN2O.2ClH/c1-21(14-15-7-3-2-4-8-15)11-6-12-22-18-10-5-9-17(19)16(18)13-20;;/h2-5,7-10H,6,11-14,20H2,1H3;2*1H
